US07244738B2
Diisopropylethylamine (0.15 mL, 0.86 mmol) was added to a mixture of 2-chloro-5,6,7-trimethoxy-1H-quinazolin-4-one (0.2 g, 0.78 mmol) and 4-chloro-2-methylaminomethylpyridine (0.13 g, 0.86 mmol) in EtOH (8 mL). The mixture was heated at 90° C. for 5 h. After cooling, the resulting white solid was filtered and washed with MeOH to provide quinazolino-pyridine compound.

reactant | Diisopropylethylamine | 0.86 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-5,6,7-trimethoxy-1H-quinazolin-4-one | 0.78 mmol, 0.2 g | ClC=1NC2=CC(=C(C(=C2C(N1)=O)OC)OC)OC | C11H11ClN2O4
reactant | 4-chloro-2-methylaminomethylpyridine | 0.86 mmol, 0.13 g | ClC1=CC(=NC=C1)CNC | C7H9ClN2
solvent | EtOH | 8 mL | CCO | C2H6O
product | quinazolino-pyridine | C1=NC=NC=2C=CC3=C(C=CC=N3)C12 | C11H7N3
